US07666888B2
5-(2-Chlorophenyl)-4-{[3-(4-fluorobenzyl)pyrrolidin-1-yl]carbonyl}isoxazole
The title compound was prepared from 5-(2-chlorophenyl)isoxazole-4-carboxylic acid (11.2 mg, 0.050 mmol) and 3-(4-fluorobenzyl)pyrrolidine hydrochloride (12.9 mg, 0.060 mmol) as described in synthetic method C and thereafter purified by preparative HPLC method B to give a solid (10.1 mg). Calcd for C21H18ClFN2O2: 384.1041, found 384.1042.

reactant | 5-(2-chlorophenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 11.2 mg | ClC1=C(C=CC=C1)C1=C(C=NO1)C(=O)O | C10H6ClNO3
reactant | 3-(4-fluorobenzyl)pyrrolidine hydrochloride | 0.060 mmol, 12.9 mg | Cl.FC1=CC=C(CC2CNCC2)C=C1
product | 5-(2-Chlorophenyl)-4-{[3-(4-fluorobenzyl)pyrrolidin-1-yl]carbonyl}isoxazole | ClC1=C(C=CC=C1)C1=C(C=NO1)C(=O)N1CC(CC1)CC1=CC=C(C=C1)F | C21H18ClFN2O2
